US07989802B2
A mixed solution of 40 g of 1-(4-methylphenyl)pyrene, 24.4 g of N-bromosuccinimide and 1.4 l of dimethylformamide was then heated and stirred at 40° C. for 7 hours under a nitrogen stream. After the mixture was cooled to room temperature, 1 l (liter) of water was added thereto, and the mixture was extracted with 500 ml of dichloromethane. The organic layer was washed twice with 200 ml of water, dried over magnesium sulfate, and then filtered through celite. The filtrate was evaporated, and the resulting residue was washed twice with 200 ml of ethyl acetate. The precipitated solid was separated by filtration and dried under vacuum to give 11.4 g of 1-bromo-6-(4-methylphenyl)pyrene.

reactant | 1-(4-methylphenyl)pyrene | 40 g | CC1=CC=C(C=C1)C1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C23H16
reactant | N-bromosuccinimide | 24.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dimethylformamide | 1.4 l | CN(C=O)C | C3H7NO
solvent | water | 1 l | O | H2O
product | 1-bromo-6-(4-methylphenyl)pyrene | 11.4 g | BrC1=CC=C2C=CC3=C(C=CC4=CC=C1C2=C34)C3=CC=C(C=C3)C | C23H15Br
